US07012075B2
Diphenylphosphonic azide (0.88mL, 4.0 mmol) was added dropwise to a mixture of isothiazole-5-carboxylic acid (500 mg, 3.90 mmol) and triethylamine (0.57 mL, 4.1 mmol) in toluene (10 mL) at rt and the resulting turbid, yellow solution was heated at 60° C. for 1 h. 2,2,2-Trichloroethanol (0.56 mL, 5.8 mmol) was introduced and the temperature was raised to 100° C. for an additional 3 h. The mixture was then cooled to rt, poured into water, extracted with ethyl acetate (3×) and the combined organics were washed with saturated sodium chloride aqueous solution and dried (MgSO4). Concentration in vacuo and flash chromatography of the residue on silica gel eluting with a mixture of ethyl acetate and hexanes (1:3) provided 553 mg of 2,2,2-trichloroethylisothiazol-5-ylcarbamate as a faint yellow powder.

reactant | Diphenylphosphonic azide | 4.0 mmol, 0.88mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | isothiazole-5-carboxylic acid | 3.90 mmol, 500 mg | S1N=CC=C1C(=O)O | C4H3NO2S
reactant | triethylamine | 4.1 mmol, 0.57 mL | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-Trichloroethanol | 5.8 mmol, 0.56 mL | ClC(CO)(Cl)Cl | C2H3Cl3O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2,2,2-trichloroethylisothiazol-5-ylcarbamate | 553 mg | ClC(COC(NC1=CC=NS1)=O)(Cl)Cl | C6H5Cl3N2O2S
